US04997972
To 100 ml of ethylene glycol monoethyl ether were added 10 g of 2-acetylamino-5-chloroiodobenzene, 3.96 g of anhydrous potassium acetate, 2.84 g of methyl acrylate, 5.8 mg of palladium acetate and 17.4 mg of triphenylphosphine. The resulting mixture was allowed to react at 130° C. for 8 hours under the stream of a nitrogen gas. The reaction solution was cooled to 50° C. and poured into 300 ml of water, and then a large amount of white crystal precipitated. This crystal was filtered off, washed with water and vacuum-dried to obtain 6.2 g of methyl 2-acetylamino-5-chlorocinnamate. The yield was 72.5%.

reactant | ethylene glycol monoethyl ether | 100 ml | C(C)OCCO | C4H10O2
reactant | 2-acetylamino-5-chloroiodobenzene | 10 g | C(C)(=O)NC1=C(C=C(C=C1)Cl)I | C8H7ClINO
reactant | potassium acetate | 3.96 g | C(C)(=O)[O-].[K+]
reactant | methyl acrylate | 2.84 g | C(C=C)(=O)OC | C4H6O2
catalyst | palladium acetate | 5.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 17.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 300 ml | O | H2O
product | methyl 2-acetylamino-5-chlorocinnamate | 6.2 g, yield was 72.5% | C(C)(=O)NC1=C(C=CC(=O)OC)C=C(C=C1)Cl | C12H12ClNO3
